US09399638B2
5-Bromo-N-(2,6-difluorophenyl)furan-2-carboxamide:
To a solution of 5-bromofuran-2-carboxylic acid acid (2.0 g, 10.4 mmol) in DMF (30 mL), 2,6-difluoroaniline (1.27 mL, 12.5 mmol), DIPEA (3.66 mL, 20.9 mmol) and HATU (4.78 g, 12.5 mmol) were successively added. The resulting mixture was stirred at RT for 3 h. The reaction mixture was diluted with ethyl acetate (50 mL) followed by water (30 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine (50 mL), dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum. The crude product was purified by flash column chromatography (silica gel, 20% ethyl acetate in hexane) to afford 400 mg (13%) of the title compound as white solid. 1HNMR (400 MHz, CDCl3) δ 7.57 (s, D2O exchangeable, 1H), 7.31-7.25 (m, 1H), 7.24 (d, J=3.5 Hz, 1H), 7.01 (t, J=7.5 Hz, 2H), 6.54 (d, J=3.5 Hz, 1H); ESI-MS (m/z) 302, 304 [(MH)+ Br79,81].

reactant | 5-bromofuran-2-carboxylic acid | 10.4 mmol, 2.0 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | 2,6-difluoroaniline | 12.5 mmol, 1.27 mL | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | DIPEA | 20.9 mmol, 3.66 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 12.5 mmol, 4.78 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
product | 5-Bromo-N-(2,6-difluorophenyl)furan-2-carboxamide | 400 mg, 13% | BrC1=CC=C(O1)C(=O)NC1=C(C=CC=C1F)F | C11H6BrF2NO2
